US07078417B2
2-Amino-6-[(2-hydroxyethyl)sulfanyl]-4-[2-(hydroxymethyl)-2,3-dihydro-1,4-benzodioxin-6-yl]-3,5-pyridinedicarbonitrile
30 mg (0.09 mmol) of 2-amino-6-sulfanyl-4-[2-(hydroxymethyl)-2,3-dihydro-1,4-benzodioxin-6-yl]-3,5-pyridinedicarbonitrile [prepared analogously to Dyachenko et al., Russian Journal of Chemistry 33 (7), 1014–1017 (1997); 34 (4), 557–563 (1998)], 22 mg (0.18 mmol) of 2-hydroxyethyl bromide and 29 mg (0.35 mmol) of sodium bicarbonate are stirred in 1.5 ml of DMF at room temperature overnight. The reaction solution is purified directly by preparative HPLC on reversed-phase silica gel.

reactant | 2-amino-6-sulfanyl-4-[2-(hydroxymethyl)-2,3-dihydro-1,4-benzodioxin-6-yl]-3,5-pyridinedicarbonitrile | 0.09 mmol, 30 mg | NC1=NC(=C(C(=C1C#N)C1=CC2=C(OC(CO2)CO)C=C1)C#N)S | C16H12N4O3S
reactant | 2-hydroxyethyl bromide | 0.18 mmol, 22 mg | OCCBr | C2H5BrO
reactant | sodium bicarbonate | 0.35 mmol, 29 mg | C([O-])(O)=O.[Na+]
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 2-Amino-6-[(2-hydroxyethyl)sulfanyl]-4-[2-(hydroxymethyl)-2,3-dihydro-1,4-benzodioxin-6-yl]-3,5-pyridinedicarbonitrile | NC1=NC(=C(C(=C1C#N)C1=CC2=C(OC(CO2)CO)C=C1)C#N)SCCO | C18H16N4O4S
